US04436662
A solution of 0.3 g (0.9 mmol) of 8-chloro-6-(2-chlorophenyl)-3-hydroxy-3,4-dihydropyrrolo[3,4-d][2]benzazepin-1(2H)-one, 0.3 g (1.3 mmol) of benzoic acid anhydride, and 0.3 g (2.5 mmol) of dimethylaminopyridine in a mixture of 30 ml of methylene chloride and 10 ml of tetrahydrofuran was stirred at 0° C. for 1 hour. The mixture was diluted with water, washed successively with cold, dilute hydrochloric acid, saturated aqueous sodium bicarbonate solution, and brine and dried over anhydrous sodium sulfate. The methylene chloride solution was concentrated at reduced pressure. The residue was purified by column chromatography (silica gel, 10 g; eluent, 5% ether in methylene chloride) to give 8-chloro-6-(2-chlorophenyl)-3-(benzoyloxy)-3,4-dihydropyrrolo[3,4-d][2]benzazepin-1(2H)-one as colorless crystals. Recrystallization from ether gave colorless crystals, mp 140°-142° C.

reactant | 8-chloro-6-(2-chlorophenyl)-3-hydroxy-3,4-dihydropyrrolo[3,4-d][2]benzazepin-1(2H)-one | 0.9 mmol, 0.3 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C(NC3=O)O)C=C1 | C18H12Cl2N2O2
reactant | benzoic acid anhydride | 1.3 mmol, 0.3 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | dimethylaminopyridine | 2.5 mmol, 0.3 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8-chloro-6-(2-chlorophenyl)-3-(benzoyloxy)-3,4-dihydropyrrolo[3,4-d][2]benzazepin-1(2H)-one | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C(NC3=O)OC(C3=CC=CC=C3)=O)C=C1 | C25H16Cl2N2O3
